* Z:\home\marcosgatica\facultadUTN\electronicaAplicada\I\trabajosPracticos\tp3\simulaciones\Sim_Ideal.asc
* Generated by LTspice 24.1.7 for Windows.
Q1 N002 N003 P001 0 NPN
R2 N001 N003 30K
RC N001 N002 1.2K
RE P001 0 180
R1 N003 0 5K
V1 N001 0 15
.model NPN NPN
.model PNP PNP
.lib C:\users\marcosgatica\AppData\Local\LTspice\lib\cmp\standard.bjt
.model BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=250 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.tran 0 1 0.1
.backanno
.end
